US05516774
10,11-Dihydro-10-(4-amino-3-methoxybenzoyl)-5H-pyrrolo[2,1-c][1,4]benzodiazepine
A mixture of 0.91 g of 10,11-dihydro-10-(4-nitro-3-methoxybenzoyl)-5H-pyrrolo[2,1-c][1,4]benzodiazepine, 4.51 g of SnCl2.2H2O, 6 ml of ethyl alcohol, 6 ml of tetrahydrofuran and 16 ml of methylene chloride is stirred at 50° C. for 2 hours. The solvents are evaporated in vacuo and the residue dissolved in 80 ml of ethyl acetate. The solution is treated with 50 ml of 1N NaOH with stirring for 30 minutes. The resulting suspension is filtered through diatomaceous earth. The pad is washed with ethyl acetate (3×15 ml). The combined ethyl acetate solutions are washed with brine, dried Na2SO4), filtered through hydrous magnesium silicate and evaporated in vacuo to 0.99 g of residue which is stirred with ether-hexanes to give 0.90 g of cream colored solid. MS(CI): 334(M+H).

reactant | 10,11-dihydro-10-(4-nitro-3-methoxybenzoyl)-5H-pyrrolo[2,1-c][1,4]benzodiazepine | 0.91 g | [N+](=O)([O-])C1=C(C=C(C(=O)N2CC=3N(CC4=C2C=CC=C4)C=CC3)C=C1)OC | C20H17N3O4
reactant | SnCl2.2H2O | 4.51 g | O.O.Cl[Sn]Cl
reactant | ethyl alcohol | 6 ml | C(C)O | C2H6O
reactant | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
solvent | methylene chloride | 16 ml | C(Cl)Cl | CH2Cl2
product | 10,11-Dihydro-10-(4-amino-3-methoxybenzoyl)-5H-pyrrolo[2,1-c][1,4]benzodiazepine | NC1=C(C=C(C(=O)N2CC=3N(CC4=C2C=CC=C4)C=CC3)C=C1)OC | C20H19N3O2
